US05032312
A mixture of 0.1 g of sodium hydride and 25 ml of tetrahydrofuran was treated with 0.5 g of trans-4-propylcyclohexanol while gassing with nitrogen, stirred for a further 2 hours, then treated with 1.0 g of (E)-3-(trans-4-pentylcyclohexyl)allyl bromide and subsequently heated to 70° C. overnight. Thereafter, the reaction mixture was treated with 500 ml of water and extracted four times with 50 ml of hexane each time. The combined organic phases were washed twice with 500 ml of water each time, dried over magnesium sulphate, filtered and then concentrated. The residue was purified by chromatography on silica gel with toluene. The trans-4-propylcyclohexyl (E)-3-(trans-4-pentylcyclohexyl)allyl ether obtained was recrystallized from acetone at -25° C.. This gave 1.2 g of pure product with m.p. (C-I) 26° C..

reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | trans-4-propylcyclohexanol | 0.5 g | C(CC)[C@@H]1CC[C@H](CC1)O | C9H18O
reactant | (E)-3-(trans-4-pentylcyclohexyl)allyl bromide | 1.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)/C=C/CBr | C14H25Br
solvent | water | 500 ml | O | H2O
product | trans-4-propylcyclohexyl (E)-3-(trans-4-pentylcyclohexyl)allyl ether | C(CCCC)[C@@H]1CC[C@H](CC1)/C=C/CO[C@@H]1CC[C@H](CC1)CCC | C23H42O
